US06303593B1
1-t-Butoxycarbonyl-4-(4-fluorobenzyloxymethyl)piperidine
To a solution of 0.75 g (6.02 mmol) of 4-fluorobenzylbromide and 0.58 g (2.7 mmol) of 1-t-butoxycarbonyl-4-hydroxymethylpiperidine in 5 mL of THF was added 0.136 g (5.4 mmol) of NaH in 3 portions over 30 min. After 3.5 h, 50 mL of H2O was added to the reaction mixture and it was extracted with ethyl acetate. The combined organic fractions were washed with sat'd Nacl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ethyl aceate, 4:1) to give 0.84 g of the title compound.

reactant | 4-fluorobenzylbromide | 6.02 mmol, 0.75 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 1-t-butoxycarbonyl-4-hydroxymethylpiperidine | 2.7 mmol, 0.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | NaH | 5.4 mmol, 0.136 g | [H-].[Na+]
reactant | H2O | 50 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-t-Butoxycarbonyl-4-(4-fluorobenzyloxymethyl)piperidine | 0.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC1=CC=C(C=C1)F | C18H26FNO3
